US07196111B2
To an ice cold mixture of 22 mg (0.048 mmol) of 5-(4-benzyloxy-phenyl)-6-cyclohexyl-7-oxo-4,7-dihydro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid methyl ester in 3 mL of tetrahydrofuran (THF) was added 0.008 mL (0.192 mmol) of methanol (MeOH), 50 mg (0.192 mmol) of triphenylphosphine (PPh3), followed by 0.038 mL (0.192 mmol) of diisopropyl azodicarboxylate (DIAD) and the mixture was allowed to warm up to rt and stirred at rt for 2 h when analysis by thin layer chromatography (TLC) revealed complete consumption of starting material. The reaction mixture was then concentrated and the residue was chromatographed on silica gel (Biotage; gradient elution dichloromethane (DCM) to 10% ethyl acetate in DCM) to give 24 mg of desired 5-(4-benzyloxy-phenyl)-6-cyclohexyl-7-methoxy-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid methyl ester as indicated by 1H-NMR (containing traces of impurities).

reactant | 5-(4-benzyloxy-phenyl)-6-cyclohexyl-7-oxo-4,7-dihydro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid methyl ester | 0.048 mmol, 22 mg | COC(=O)C1=NN2C(NC(=C(C2=O)C2CCCCC2)C2=CC=C(C=C2)OCC2=CC=CC=C2)=C1 | C27H27N3O4
reactant | methanol | 0.192 mmol, 0.008 mL | CO | CH4O
reactant | triphenylphosphine | 0.192 mmol, 50 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.192 mmol, 0.038 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 5-(4-benzyloxy-phenyl)-6-cyclohexyl-7-methoxy-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid methyl ester | 24 mg | COC(=O)C1=NN2C(N=C(C(=C2OC)C2CCCCC2)C2=CC=C(C=C2)OCC2=CC=CC=C2)=C1 | C28H29N3O4
